US04480112
12.5 parts of α-L-aspartyl-L-phenylalanine methyl ester hydrochloride dihydrate was dissolved in 100 parts by volume of water and aqueous sodium carbonate added to pH3, then heated to 60° C. and adjusted to pH4.6. The reaction mixture was cooled to 5° C. for three hours and the precipitate was collected on a filter and dried for 18 hours under vacuum at 60° C. to give 7.6 parts α-L-aspartyl-L-phenylalanine methyl ester.

reactant | α-L-aspartyl-L-phenylalanine methyl ester hydrochloride dihydrate | O.O.Cl.COC([C@@H](NC([C@@H](N)CC(O)=O)=O)CC1=CC=CC=C1)=O
solvent | water | O | H2O
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | α-L-aspartyl-L-phenylalanine methyl ester | COC([C@@H](NC([C@@H](N)CC(O)=O)=O)CC1=CC=CC=C1)=O | C14H18N2O5
